US05656629
Sodium spheres (207 mg) were dissolved in ethanol (15 ml) and 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.0 g) was added, followed by 4-methoxyphenylacetate (1.62 g, 9 mmol). The reaction mixture was refluxed for 16 hours, the solvent was stripped, water was added to the residue, and the product was collected by filtration and recrystallized from ether to afford 0.89 g of 1-cyclopentyl-3-ethyl-6-(4-methoxyphenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one, m.p. 172°-173° C.

reactant | Sodium | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 1.0 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 4-methoxyphenylacetate | 9 mmol, 1.62 g | COC1=CC=C(C=C1)CC(=O)[O-]
reactant | water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6-(4-methoxyphenylmethyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.89 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)OC)CC | C20H24N4O2
